US03954811
The procedure similar to that of Step 3 (a) of Example 1 was repeated using 9.4 g of 2-(6'-carbethoxyhexyl)-3-methoxy-4-hydroxy- 2-cyclopenten-1-one, 8.2 g of triethyl aluminum, 2.0 g of hydrocyanic acid, and a mixed solvent of benzene and toluene to provide 4.1 g of oily 2-(6'-carbethoxyhexyl)-3-cyano-4-hydroxy-2-cyclopenten-1-one.

reactant | 2-(6'-carbethoxyhexyl)-3-methoxy-4-hydroxy- 2-cyclopenten-1-one | 9.4 g | C(=O)(OCC)CCCCCCC=1C(CC(C1OC)O)=O | C15H24O5
reactant | triethyl aluminum | 8.2 g | C(C)[Al](CC)CC
reactant | hydrocyanic acid | 2.0 g | C#N | CHN
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(6'-carbethoxyhexyl)-3-cyano-4-hydroxy-2-cyclopenten-1-one | 4.1 g | C(=O)(OCC)CCCCCCC=1C(CC(C1C#N)O)=O | C15H21NO4
